US07179823B1
Lithium aluminium hydride (205 mg) was added gradually to a solution of methyl 1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-4-phenylpyrrole-3-carboxylate (1.30 g) in tetrahydrofuran (40 ml) at 0° C., and the resultant was stirred for 3 hours. Sodium sulfate decahydrate (2.80 g) was added to the reaction mixture, and the precipitate was removed by filtration. The filtrate was concentrated, and the residue was subjected to silica gel column chromatography to obtain [1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-4-phenyl-3-pyrrolyl]methanol (1.15 g, yield 94%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (3:2, volume ratio).

reactant | Lithium aluminium hydride | 205 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-4-phenylpyrrole-3-carboxylate | 1.30 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)CN1C=C(C(=C1)C1=CC=CC=C1)C(=O)OC | C29H25N3O4
reactant | Sodium sulfate decahydrate | 2.80 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | [1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-4-phenyl-3-pyrrolyl]methanol | 1.15 g, yield 94% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)CN1C=C(C(=C1)C1=CC=CC=C1)CO | C28H25N3O3
